* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1612.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N006 N004 IN 0 N002 N001 N003 IN LT1612
C1 N001 N002 .1µ
L1 N002 OUT 10µ
V1 IN 0 2
R1 N006 N005 33.2K
C2 N005 0 330p
R2 OUT N004 215K
R3 0 N004 232K
C3 OUT N004 100p
Rload 0 OUT 10
C5 OUT 0 68µ
.tran .5m startup
.lib LT1612.sub
.backanno
.end
